US04546191
Preparation of 3-Chloro-5-trifluoromethyl-2-pyridone
[A] 0.2 g of 5-trifluoromethyl-2-pyridone was dissolved in 20 ml of chloroform, and chlorine gas was pressed through the solution at 50° C. for 1 hour while stirring. After completion of the reaction, the chloroform was distilled off, and recrystallization was performed from a mixed solvent of toluene and n-hexane to obtain 0.15 g of the titled compound having a melting point of 144° to 147° C. The recrystallization was further repeated to obtain 0.09 g of the titled compound having a melting point of 165° to 166° C.

reactant | 5-trifluoromethyl-2-pyridone | 0.2 g | FC(C=1C=CC(NC1)=O)(F)F | C6H4F3NO
reactant | chlorine | ClCl | Cl2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Chloro-5-trifluoromethyl-2-pyridone | 0.15 g | ClC=1C(NC=C(C1)C(F)(F)F)=O | C6H3ClF3NO
